US07053255B2
(3) Synthesis of 9,10-bis(2-(1-naphthyl)phenyl)anthracene (Compound 15)
9,10-bis(2-(1-Naphthyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene (3.5 g, 5.7 mmole) was suspended in acetic acid (80 ml). To the resultant suspension, a 57% hydroiodic acid (15 ml, 0.11 mole, 20 eq) was added and the obtained mixture was stirred at 100° C. for 7 hours. To the reaction mixture, a 50% aqueous solution of hypophosphorous acid (30 ml) was added. The formed solid was separated by filtration and washed with water, methanol and acetone and a white solid (3.2 g, 96%) was obtained.

reactant | 9,10-bis(2-(1-Naphthyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene | 5.7 mmole, 3.5 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1)C1(C2=CC=CC=C2C(C=2C=CC=CC12)(O)C1=C(C=CC=C1)C1=CC=CC2=CC=CC=C12)O | C46H32O2
reactant | hydroiodic acid | 0.11 mole, 15 ml, 20 eq | I | HI
reactant | hypophosphorous acid | 30 ml | [PH2](=O)O | H3O2P
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 9,10-bis(2-(1-naphthyl)phenyl)anthracene | 3.2 g, 96% | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C=CC=C1)C1=CC=CC2=CC=CC=C12 | C46H30
